US06251910B1
a) 1-Ethenyl-3-Phenoxy-benzene
A suspension of triphenylmethylphosphonium bromide (25.23 g) and potassium tert-butoxide (1M solution in tetrahydrofuran) (75.67 ml) was stirred at 0° C. for 0.5 h. A solution of 3-phenoxy-benzaldehyde (10.0 g) in THF (10 ml) was added to the mixture and the reaction mixture stirred at 0° C. for 4 h. Ammonium chloride solution was added and the mixture extracted with diethyl ether. The organic extracts were combined, washed with water, dried and concentrated. Purification (SiO2, isohexane:ethyl acetate 4:1 as eluant) gave the subtitle compound (7.12 g).

reactant | triphenylmethylphosphonium bromide | 25.23 g | [Br-].C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)[PH3+]
reactant | potassium tert-butoxide | 1M, 75.67 ml | CC(C)([O-])C.[K+]
reactant | 3-phenoxy-benzaldehyde | 10.0 g | O(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C13H10O2
reactant | Ammonium chloride | [Cl-].[NH4+]
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1-Ethenyl-3-Phenoxy-benzene | 7.12 g | C(=C)C1=CC(=CC=C1)OC1=CC=CC=C1 | C14H12O
